US04163844
By following the same procedure as in Example 29 using 2.3 g. of 2-carboxymethyl-5-methylaminobenzoic acid and 1.8 g. of 3-aminopropanethiol.hydrobromide, 300 mg. of 8-methylamino-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline was obtained.

reactant | 2-carboxymethyl-5-methylaminobenzoic acid | C(=O)(O)CC1=C(C(=O)O)C=C(C=C1)NC | C10H11NO4
reactant | 3-aminopropanethiol.hydrobromide | Br.NCCCS
product | 8-methylamino-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline | CNC=1C=CC=2C=C3N(C(C2C1)=O)CCCS3 | C13H14N2OS
